US07645771B2
3.6 g (90 mmol) of NaOH was added to the solution of methyl 4-[(methylsulfonyl)amino]benzoate in 40 mL methanol and 20 mL water and stirred overnight at room temperature. Solvents were then removed and the product purified by ethyl acetate extraction from 1N aqueous hydrochloric acid, providing 1.2 g (yield 74.6%) of the 4-[(methylsulfonyl)amino]benzoic acid. 1H NMR in d-chloroform: 8.03 (2H, d, J=8.7 Hz), 7.34 (2H, d, J=8.7 Hz), 3.09 (3H, s). 13C NMR in d-chloroform: 131.2, 117.9, 38.6.

reactant | NaOH | 90 mmol, 3.6 g | [OH-].[Na+]
reactant | methyl 4-[(methylsulfonyl)amino]benzoate | CS(=O)(=O)NC1=CC=C(C(=O)OC)C=C1 | C9H11NO4S
solvent | methanol | 40 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 4-[(methylsulfonyl)amino]benzoic acid | 1.2 g, yield 74.6% | CS(=O)(=O)NC1=CC=C(C(=O)O)C=C1 | C8H9NO4S
